US09238644B2
(a) tert-Butyl 4-(4-((4-(2-(1-carbamoylcyclopropyl)phenethyl)-5-chloropyrimidin-2-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate (A20)
A suspension of 1-(2-(2-(2,5-dichloropyrimidin-4-yl)ethyl)phenyl)cyclopropanecarboxamide A14 (0.100 g, 0.297 mmol), Cs2CO3 (0.291 g, 0.892 mmol) and tert-butyl 4-(4-amino-1H-pyrazol-1-yl)piperidine-1-carboxylate (0.158 g, 0.595 mmol) in 1,4-dioxane (2 mL) was sonicated for 10 minutes. Xantphos (6.9 mg, 12 μmol) and Pd(II) acetate (1.3 mg, 5.9 μmol) were added and the mixture was irradiated in the microwave at 120° C. for 20 minutes. The mixture was adsorbed onto silica gel and purified by column chromatography (Biotage Isolera, 40 g SiO2 cartridge, 0-100% EtOAc in cyclohexane then 0-10% MeOH in EtOAc) to give the title compound A20 as a brown solid (21 mg, 12%). LCMS-C: rt 5.54 min; m/z 565.9 [M+H]+.

reactant | 1-(2-(2-(2,5-dichloropyrimidin-4-yl)ethyl)phenyl)cyclopropanecarboxamide | ClC1=NC=C(C(=N1)CCC1=C(C=CC=C1)C1(CC1)C(=O)N)Cl | C16H15Cl2N3O
reactant | Cs2CO3 | 0.892 mmol, 0.291 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | tert-butyl 4-(4-amino-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.595 mmol, 0.158 g | NC=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H22N4O2
reactant | Xantphos | 12 μmol, 6.9 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl 4-(4-((4-(2-(1-carbamoylcyclopropyl)phenethyl)-5-chloropyrimidin-2-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate | C(N)(=O)C1(CC1)C1=C(CCC2=NC(=NC=C2Cl)NC=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1 | C29H36ClN7O3
